US07855227B2
Step B 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide
A mixture of 0.8 g (2.69 mmol) of [2-(3-benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amine, 0.56 ml (4.03 mmol) of triethylamine and 0.415 ml (4.03 mmol) of 2-chloro-N,N-dimethyl-acetamide in 5 ml of dry dimethylformamide was heated to 120° C. for 2 hours with microwaves. Solvent was removed under vacuum and the crude residue was purified by flash chromatography (dichloromethane/methanol: 100:3, v:v). 0.611 g (59% yield) of the title compound were isolated as a yellow oil.

reactant | [2-(3-benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amine | 2.69 mmol, 0.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNC1COCC1 | C19H23NO2
reactant | triethylamine | 4.03 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-N,N-dimethyl-acetamide | 4.03 mmol, 0.415 ml | ClCC(=O)N(C)C | C4H8ClNO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-yl)amino]-N,N-dimethyl-acetamide | 0.611 g, 59% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)C1COCC1 | C23H30N2O3
